US04780469
Synthesis of 8-(p-pentylcinnamoyl)amino-1,4-benzodioxane-2-acetic acid methyl ester
Potassium carbonate (509 mg) was added to a solution of 3-(p-pentylcinnamoyl)aminopyrocatechol (300 mg; synthesized by the same procedure as reference example 1) and 4-bromo-2-butenoic acid methyl ester in acetone (10 ml), and the mixture was refluxed for 10 min. The reaction mixture was poured into water. The mixture was extracted with ethyl acetate. The extract was purified by column chromatography on silica gel (hexane:ethyl acetate=5:1) to give the title compound (341 mg).

reactant | Potassium carbonate | 509 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(p-pentylcinnamoyl)aminopyrocatechol | C(CCCC)C1=CC=C(C=CC(=O)NC2=C(C(O)=CC=C2)O)C=C1 | C20H23NO3
reactant | 4-bromo-2-butenoic acid methyl ester | COC(C=CCBr)=O | C5H7BrO2
reactant | water | O | H2O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 8-(p-pentylcinnamoyl)amino-1,4-benzodioxane-2-acetic acid methyl ester | 341 mg | COC(CC1COC2=C(O1)C(=CC=C2)NC(C=CC2=CC=C(C=C2)CCCCC)=O)=O | C25H29NO5
